datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)[NH2:10].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC(C)[NH2+:10][CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC1=CC=CC(C)=C1[N+:61]#[C-:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C>>CC1=CC=CC(C)=C1[N+:61]#[C:10][CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C[N:14](C)[C:13]1=[C:12](Br)[CH:11]=[N:10][CH:61]=[CH:62]1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>C[N+:14](C)=[C:13]1[C:12](Br)=[CH:11][N:10]([Cl:20])[CH:61]=[CH:62]1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC1=C[C:61]2=[C:62](C=C1C)[NH:12][CH:11]=[N:10]2.CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:50][C:22](=[CH:21][CH:20]([N:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1C=C(C)C(C)=C2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.[CH-:10]([C:71]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:72])[N+:81](=[O:82])[O-:92]>>C1[CH:20]([CH:10]([C:71]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:72])[N+:81](=[O:82])[O-:92])[CH:21]=[C:22]([O-:23])[O:33]1 10=20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCO1.C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Ge:73](C)(C)C>>C1C[C:20]([H:10])([O-:21])CCO1.C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Ge:73](C)(C)C 10,11=10,20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[CH-:10]([N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:81]#[N:82]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:81]#[N:82])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](CC)[C:73]1=[S:74].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[N:82]1[C:11](=[O:12])[CH:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[C:61](=[O:62])[N:82](CC)[C:73]1=[S:74] 10,11=10,20;12=11,12"
"C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCCC1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CCCCC[C:11]2=[O+:12][Si:63](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC(C)[Si](C(C)C)(C(C)C)[N:12]1[CH:11]=[CH:10][CH:61]=[CH:62]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C>>CC(C)[Si](C(C)C)(C(C)C)[N+:12]1=[CH:11][CH:10]([CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[CH:61]=[CH:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S:10][CH:20]2CC[O:33][C:22]([O-:23])=[CH:21]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.CC[Pb:63](CC)(CC)[CH2:62][CH2:11][H:10]>>C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.CC[Pb:63](CC)(CC)[CH2:62][CH2+:11] 10,11=10,20"
"CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23].C[Si:63](C)(Cl)[CH2:62][CH:11]=[CH2:10]>>CC[O:33][C:22](=[CH:21][CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C)(C)Cl)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11]1=[N:10][CH:61]=[CH:62][NH:12]1.C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32]>>C[C:11]1=[NH+:12][CH:62]=[CH:61][N:10]1[CH:20]1[CH:21]=[C:22]([O-:23])[N:43](C)[C:31]1=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[N:10]1CCOCC1>>CC1=CC=C([S:32]([N-:21][CH:20]([N+:10]2(C)CCOCC2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"C1=CC=C([N:62]2[CH:61]=[N:10][CH:64]=[CH:63]2)C=C1.C[C:20]1=[CH:21][C:22](=[O:23])CC1>>C[C:20]1([N+:10]2=[CH:61][N:62](C3=CC=CC=C3)[CH:63]=[CH:64]2)CC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
